US09193719B2
Sodium hydride (1.16 g, 48.4 mmol) was dissolved in THF (48 mL) and cooled to 0° C. 3-Hydroxy-2,2-dimethylpropanoate (6.4 g, 48.4 mmol) was added dropwise and the mixture was stirred at 0° C. for 30 min, allowed to warm to RT, and stirred an additional 1 h. The mixture was cooled back to 0° C. and iodomethane (3.0 mL), 48.4 mmol) was added. The reaction mixture was allowed to warm to RT and stirred for 16 h. The reaction mixture was filtered through a pad of diatomaceous earth and the filter cake was washed with THF (2×35 mL). The filtrates were combined and diluted with water (150 mL). Lithium hydroxide hydrate (8.13 g, 194 mmol) was added and the reaction mixture was stirred at RT for 16 h. The aqueous phase was collected and the organic phase was extracted with 0.5 N NaOH (aq) (3×50 mL). The combined aqueous phases were washed with Et2O (20 mL) and hexanes (2×100 mL), saturated with solid NaCl, and the pH of the solution was adjusted to ˜2 by the careful addition of conc. HCl (aq). The acidic solution was extracted with EtOAc (4×100 mL) and the combined organics were dried (Na2SO4) and concentrated in vacuo to afford 3-methoxy-2,2-dimethylpropanoic acid (5.8 g, 91%) as a red oil. 1H NMR (400 MHz, DMSO-d6): δ 12.02 (s, 1H), 3.29 (s, 2H), 3.23 (s, 3H), 1.06 (s, 6H).

reactant | Sodium hydride | 48.4 mmol, 1.16 g | [H-].[Na+]
reactant | 3-Hydroxy-2,2-dimethylpropanoate | 48.4 mmol, 6.4 g | OCC(C(=O)[O-])(C)C
reactant | iodomethane | 3.0 mL | IC | CH3I
reactant | Lithium hydroxide hydrate | 194 mmol, 8.13 g | O.[OH-].[Li+]
solvent | THF | 48 mL | C1CCOC1 | C4H8O
product | 3-methoxy-2,2-dimethylpropanoic acid | 5.8 g, 91% | COCC(C(=O)O)(C)C | C6H12O3
